US04585772
9-Acetoamido-5-oxo-6-benzyl-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline
Preparation analogously to Example 37 from 9-amino-5-oxo-6-benzyl-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline and acetic anhydride.

reactant | 9-amino-5-oxo-6-benzyl-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline | NC1=CC=2C=3N(C(N(C2C=C1)CC1=CC=CC=C1)=O)CCN3 | C17H16N4O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 9-Acetoamido-5-oxo-6-benzyl-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline | C(C)(=O)NC1=CC=2C=3N(C(N(C2C=C1)CC1=CC=CC=C1)=O)CCN3 | C19H18N4O2
